US04861798
N-Methyl 9(4-Hexyloxyphenyl)nonanohydroxamic acid
To a cold, stirring suspension of 0.6 gm of N-methyl hydroxylamine hydrochloride and 0.7 gms sodium carbonate in 15 ml CH2Cl2 was added dropwise 2 gms 9(4-hexyloxyphenyl)nonanoyl chloride. The resulting mixture was stirred in the cold for 1/2 hr, then 0.9 ml water was added and the reaction stirred at room temperature for 22 hr. 100 ml CH2Cl2 and 40 ml water was added, and the pH of the aqueous layer was adjusted to 3-4 with a few drops of conc. HCl. The organic layers were separated and the aqueous layer was 3×20 ml CH2Cl2 extracted. The combined organic extracts were washed with water and NaCl solution, and dried over MgSO4. The drying agent was filtered off, the solvent was evaporated in vacuo, and the residue was purified by column chromatography on silica gel in chloroform. The major component had R=0.2. The fractions containing product (as determined by thin layer chromatography) were combined, evaporated in vacuo and the resulting solid recrystallized from hexanes to give 1.0 gm product of m.p. 59°-61°. Elemental analysis calculated C 72.69, H 10.26, N 3.85, O 13.2% found C 72.54, N 10.46, N 3.98%.

reactant | N-methyl hydroxylamine hydrochloride | 0.6 gm | Cl.CNO
reactant | sodium carbonate | 0.7 gms | C([O-])([O-])=O.[Na+].[Na+]
reactant | 9(4-hexyloxyphenyl)nonanoyl chloride | 2 gms | C(CCCCC)OC1=CC=C(C=C1)CCCCCCCCC(=O)Cl | C21H33ClO2
reactant | water | 0.9 ml | O | H2O
reactant | water | 40 ml | O | H2O
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | HCl | a few drops | Cl | ClH
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | N-Methyl 9(4-Hexyloxyphenyl)nonanohydroxamic acid | 1.0 gm | CN(O)C(CCCCCCCCC1=CC=C(C=C1)OCCCCCC)=O | C22H37NO3
